US04734416
1.8 Grams of 1-methyl-5-hydroxy-3,4-dihydrocarbostyril and 1 g of NaH (50% in oil) are mixed with 30 ml of dimethylformamide. Then 2.6 g of 1-chloro-2-hydroxy-3-(4-phenylpiperazinyl)propane are added thereto at a room temperature and stirred at 70° to 80° C. for 3 hours. The reaction mixture is poured into water and the organic layer is extracted with chloroform. After removing chloroform by distillation, the thus obtained residue is dissolved in acetone and the pH of the solution is adjusted by adding an acetone solution of oxalic acid. The crystals precipitated are collected by filtration and recrystallized from methanol-acetone to obtain 2.8 g of 1-methyl-5-[2-hydroxy-3-(4-phenylpiperazinyl)-propoxy]-3,4-dihydrocarbostyril oxalate in the form of colorless crystals with a melting point of 220°-221° C. (decomp.).

reactant | 1-methyl-5-hydroxy-3,4-dihydrocarbostyril | CN1C(=O)CCC2=C(C=CC=C12)O | C10H11NO2
reactant | NaH | 1 g | [H-].[Na+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | 1-chloro-2-hydroxy-3-(4-phenylpiperazinyl)propane | 2.6 g | ClCC(CN1CCN(CC1)C1=CC=CC=C1)O | C13H19ClN2O
reactant | water | O | H2O
product | 1-methyl-5-[2-hydroxy-3-(4-phenylpiperazinyl)-propoxy]-3,4-dihydrocarbostyril oxalate | 2.8 g | C(C(=O)O)(=O)O.CN1C(=O)CCC2=C(C=CC=C12)OCC(CN1CCN(CC1)C1=CC=CC=C1)O | InChI=1S/C23H29N3O3.C2H2O4/c1-24-21-8-5-9-22(20(21)10-11-23(24)28)29-17-19(27)16-25-12-14-26(15-13-25)18-6-3-2-4-7-18;3-1(4)2(5)6/h2-9,19,27H,10-17H2,1H3;(H,3,4)(H,5,6)
